US06951879B2
According to the method in example 18, Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and Diethanolamine were converted to yield 2-[{5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-(2-hydroxy-ethyl)-amino]-ethanol, MS: 415 (MH+).

reactant | Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16ClNO3S2
reactant | Diethanolamine | N(CCO)CCO | C4H11NO2
product | 2-[{5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-(2-hydroxy-ethyl)-amino]-ethanol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCN(CCO)CCO | C22H23ClN2O2S
